US05606054
Step A: 4-Oximino-4,5,6,7-tetrahydroindole
A solution of 6.08 g of sodium acetate, 5.15 g of hydroxylamine hydrochloride, and 5.25 g of 4-keto-4,5,6,7-tetrahydro indole in 12 mL of water and 36 mL of ethanol was heated at 50° C. for 3 hr, quenched in water, extracted with ethyl acetate and dried over magnesium sulfate. The solvents were removed in vacuo to give a mixture of oxime isomers which was characterized by NMR and Mass spectroscopy.

reactant | sodium acetate | 6.08 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 5.15 g | Cl.NO
reactant | 4-keto-4,5,6,7-tetrahydro indole | 5.25 g | O=C1C=2C=CNC2CCC1 | C8H9NO
solvent | water | 12 mL | O | H2O
solvent | ethanol | 36 mL | C(C)O | C2H6O
product | 4-Oximino-4,5,6,7-tetrahydroindole | N(O)=C1C=2C=CNC2CCC1 | C8H10N2O
